US08071768B2
a. 2-Isopropoxy-5-nitro-pyridine
To a solution of 2-chloro-5-nitro-pyridine (450 mg, 2.84 mmol) in isopropanol (10 mL)/DMF (7 mL) was added 60% NaH (57 mg). The mixture was stirred at 80° C. for 4 h and the organic solvents were evaporated under reduced pressure. The residue was partitioned between EtOAc and water. The EtOAc extracts were dried (Na2SO4) and evaporated. The crude product was used for the next step reaction without further purification. 1H NMR (300 MHz, CDCl3) δ 9.06 (d, J=2.81 Hz, 1H), 8.32 (dd, J=8.79 and 2.53 Hz, 1H), 6.74 (d, J=8.61 Hz, 1H), 5.43 (m, 1H), 1.38 (d, J=6.20 Hz, 6H).

reactant | 2-chloro-5-nitro-pyridine | 2.84 mmol, 450 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
reactant | NaH | 57 mg | [H-].[Na+]
reactant | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-Isopropoxy-5-nitro-pyridine | C(C)(C)OC1=NC=C(C=C1)[N+](=O)[O-] | C8H10N2O3
